US04892914
Step (1): Preparation of lithium diphenylamide
To a 500 ml Schlenk equipped with a 250 ml pressure equalizing dropping funnel is added 250 ml of diethyl ether which is chilled to -78° C. in an acetone/dry ice bath. To this is added n-butyl lithium, 0.10 mole of a 2.90 molar solution in hexane, followed by the addition of 16.923 g (0.10 mole) of diphenylamine dissolved in ether, 50 ml. The flask contents are stirred magnetically and maintained at -78° C. during the addition of diphenylamine which requires 0.5 hour. The contents are warmed to room temperature for 2 hours.

reactant | n-butyl lithium | C(CCC)[Li]
reactant | diphenylamine | 0.10 mole, 16.923 g | C1(=CC=CC=C1)NC1=CC=CC=C1 | C12H11N
solvent | hexane | CCCCCC | C6H14
solvent | ether | CCOCC | C4H10O
solvent | diethyl ether | 250 ml | C(C)OCC | C4H10O
product | lithium diphenylamide | C1(=CC=CC=C1)[N-]C1=CC=CC=C1.[Li+] | InChI=1S/C12H10N.Li/c1-3-7-11(8-4-1)13-12-9-5-2-6-10-12;/h1-10H;/q-1;+1
